US07723356B2
Sv) (R)-Cyclohexyl-hydroxy-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester
This compound is prepared analogously to (S)-cyclohexyl-hydroxy-thiophen-2-yl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester by replacing (S)-cyclohexyl-hydroxy-thiophen-2-yl-acetic acid with (R)-cyclohexyl-hydroxy-phenyl-acetic acid.

reactant | (S)-cyclohexyl-hydroxy-thiophen-2-yl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester | N12C[C@@H](C(CC1)CC2)OC([C@@](C=2SC=CC2)(O)C2CCCCC2)=O | C19H27NO3S
reactant | (R)-cyclohexyl-hydroxy-phenyl-acetic acid | C1(CCCCC1)[C@](C(=O)O)(C1=CC=CC=C1)O | C14H18O3
product | (R)-Cyclohexyl-hydroxy-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl) ester | N12C[C@@H](C(CC1)CC2)OC([C@@](C2=CC=CC=C2)(O)C2CCCCC2)=O | C21H29NO3
